US07902226B2
7,8-dichloro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of ethyl 7,8-dichloro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate (1.114 g, 3.237 mmol), acetic acid (8 ml) and concentrated hydrochloric acid (4 ml) was heated under reflux for 2 hours in an oil bath at 130° C. After then adding water (40 ml) and cooling with ice, the crystals formed were filtered out and washed with water (5 ml×2), 5% aqueous ethanol solution (5 ml×2), and diethyl ether (5 ml×2), thereby obtaining 909 mg (89%) of the title compound as a pale-yellow powder.

reactant | ethyl 7,8-dichloro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 3.237 mmol, 1.114 g | ClC1=CC=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C15H12Cl2FNO3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 7,8-dichloro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 909 mg, 89% | ClC1=CC=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H8Cl2FNO3
